US07495007B2
In a manner similar to the method described in example 1b, 2-isopropyl-benzaldehyde (1.5 g, 10 mmol) (Aldrich) was used as the starting material in place of 3-chloro-benzaldehyde to react with 1,1,1,3,3,3-hexamethyldisilazane (1.61 g, 10 mmol), n-butyllithium (2.5 M, 4 mL, 10 mmol), trimethylsilyl chloride (1.1 g, 10 mmol), triethylamine (1.3 g, 13 mmol) and acetyl chloride (1.0 g, 13 mmol) to give 1-(2-isopropylphenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 2-isopropyl-benzaldehyde | 10 mmol, 1.5 g | C(C)(C)C1=C(C=O)C=CC=C1 | C10H12O
reactant | 3-chloro-benzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 10 mmol, 1.61 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 10 mmol, 2.5 M, 4 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10 mmol, 1.1 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13 mmol, 1.3 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 13 mmol, 1.0 g | C(C)(=O)Cl | C2H3ClO
product | 1-(2-isopropylphenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | C(C)(C)C1=C(C=CC=C1)C=NC(=C)O[Si](C)(C)C | C15H23NOSi
